US08703951B2
To a solution of 3-(4-chlorobenzoyl)-2,3-dihydrobenzo[d]thiazole-2-carbonitrile (9.12 g, 30.0 mmol) in dichloromethane (50 mL) was added dropwise 9 mL of tetrafluoroboric acid (HBF4). The solution was stirred for 3 h at room temperature. The brown precipitates appeared were collected by filtration and the filter cake was washed with ether. The solid salt was added to a solution of dimethyl acetylenedicarboxylate (12.7 g, 90.0 mmol) in DMF (40 mL) and then warmed at 35° C. for 14 h. The reaction mixture was concentrated in vacuo and the residue was crystallized from methanol to give dimethyl 1-(4-chlorophenyl)benzo[d]pyrrolo[2,1-b]thiazole-2,3-dicarboxylate, 2.5 g (21%); mp 172-173° C. 1H NMR (DMSO-d6) δ 3.64 (3H, s, COOMe), 3.83 (3H, s, COOMe), 6.85-6.87 (1H, m, ArH), 7.30-7.42 (2H, m, ArH), 7.60-7.66 (4H, m, 4×ArH), 8.04-8.06 (1H, m, ArH). Anal. Calcd. for (C20H14ClNO4S.0.5H2O): C, 58.75; H, 3.70; N, 3.43; S, 7.84. Found: C, 58.76; H, 3.45; N, 3.59; S, 7.73.

reactant | 3-(4-chlorobenzoyl)-2,3-dihydrobenzo[d]thiazole-2-carbonitrile | 30.0 mmol, 9.12 g | ClC1=CC=C(C(=O)N2C(SC3=C2C=CC=C3)C#N)C=C1 | C15H9ClN2OS
reactant | tetrafluoroboric acid | 9 mL | F[B-](F)(F)F.[H+]
reactant | dimethyl acetylenedicarboxylate | 90.0 mmol, 12.7 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | dimethyl 1-(4-chlorophenyl)benzo[d]pyrrolo[2,1-b]thiazole-2,3-dicarboxylate | ClC1=CC=C(C=C1)C1=C(C(=C2SC3=C(N21)C=CC=C3)C(=O)OC)C(=O)OC | C20H14ClNO4S
